US07977358B2
B] 5-Cyclopropyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester
220 mg (0.84 mmol) of 3-cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester and 57 mg (0.84 mmol) hydrazine.hydrochloride were dissolved in 3 ml ethanol, 1.5 ml water and 0.2 ml 4M HCl dioxane. The yellow solution was stirred 1 h at room temperature. The reaction mixture was evaporated, the residue taken in EtOAc and washed with brine, the aqueous layers were extracted with EtOAc. The combined organic phases were dried over magnesium sulfate and evaporated. The title compound was received as yellow gum (148 mg, 68%). MS: 258.0 (MH+).

reactant | 3-cyclopropyl-3-oxo-2-(pyridine-4-carbonyl)-propionic acid ethyl ester | 0.84 mmol, 220 mg | C(C)OC(C(C(=O)C1CC1)C(=O)C1=CC=NC=C1)=O | C14H15NO4
reactant | hydrazine.hydrochloride | 0.84 mmol, 57 mg | Cl.NN
reactant | water | 1.5 ml | O | H2O
reactant | HCl dioxane | 4M, 0.2 ml | O1CCOCC1.Cl
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 5-Cyclopropyl-3-pyridin-4-yl-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NNC1C1CC1)C1=CC=NC=C1 | C14H15N3O2
